US06194406B1
1-(2-Methoxy-5-hydroxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.53 g, 1.0 mmol), 2-methoxy-5-hydroxybenzoic acid (0.17 g, 1.0 mmol), 1-hydroxybenzotriazole hydrate (0.13 g, 1.0 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.19 g, 1.0 mmol), and N,N-diisopropylethylamine (0.34 mL, 2.0 mmol) in dichloromethane-(10 mL). After 18 hours, dilute the reaction mixture with dichloromethane and extract with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 3% methanol/dichloromethane, 5% methanol/dichloromethane, 7% methanol/dichloromethane, and then 10% methanol/dichloromethane to give the title compound.

reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | 1.0 mmol, 0.53 g | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
reactant | 2-methoxy-5-hydroxybenzoic acid | 1.0 mmol, 0.17 g | COC1=C(C(=O)O)C=C(C=C1)O | C8H8O4
reactant | 1-hydroxybenzotriazole hydrate | 1.0 mmol, 0.13 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.0 mmol, 0.19 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane- | 10 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | 1-(2-Methoxy-5-hydroxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)O | C36H45N5O4
